US08877934B2
Step B: N-[2-(2-Methyl-1,3-dioxolan-2-yl)-4-pyridyl]ethane-1,2-diamine
4-Chloro-2-(2-methyl-1,3-dioxolan-2-yl)pyridine (500 mg, 2.5 mmol) was mixed with 1,2-diaminoethane (1.09 ml, 26.2 mmol) and stirred in a closed vessel at 180° C. with microwave heating for 30 minutes in two batches. The mixture was evaporated to dryness, the solid residue was washed with acetone. The washing solution was evaporated to dryness and this solid residue was washed with acetonitrile. The solid residues were combined and dried under reduced pressure to yield 531 mg of a solid (2.38 mmol, 95%). MS (APCI) m/z=224.1 [M+H]+.

reactant | 4-Chloro-2-(2-methyl-1,3-dioxolan-2-yl)pyridine | 2.5 mmol, 500 mg | ClC1=CC(=NC=C1)C1(OCCO1)C | C9H10ClNO2
reactant | 1,2-diaminoethane | 26.2 mmol, 1.09 ml | NCCN | C2H8N2
product | N-[2-(2-Methyl-1,3-dioxolan-2-yl)-4-pyridyl]ethane-1,2-diamine | 2.38 mmol, 531 mg, 95% | CC1(OCCO1)C1=NC=CC(=C1)NCCN | C11H17N3O2
